US05166390
To a mixture of 2.8 g (0.0162 mol) of cis-3-(acetylthio)propenoic acid and 0.1 ml of N,N-dimethylformamide in 50 ml of toluene under nitrogen was added 2.84 ml (0.0325 mol) of oxalyl chloride. After 3 h the solvents were removed to give cis-3-(acetylthio)propenoyl chloride. This crude product was used in the next step without any further purification.

reactant | cis-3-(acetylthio)propenoic acid | 0.0162 mol, 2.8 g | C(C)(=O)S\C=C/C(=O)O | C5H6O3S
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.0325 mol, 2.84 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | cis-3-(acetylthio)propenoyl chloride | C(C)(=O)S\C=C/C(=O)Cl | C5H5ClO2S
